US06413938B1
A. 5-Nitro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
5-nitro-N-(1-methylethyl)-1H-benzimidazol-2-amine (1.1 g) was coupled to 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose according to General Procedure II. The crude product was purified by flash chromatography (1:1 ethyl acetate/hexanes) to yield the title compound (0.420 g) as a mixture of 5,6 regioisomers. MS (AP): m/z 443 (M+Na).

reactant | 5-nitro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 1.1 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)NC(C)C)C=C1 | C10H12N4O2
reactant | 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
product | 5-Nitro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.420 g | [N+](=O)([O-])C1=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C=C1 | C19H24N4O7
